US06503903B1
a) (2R)-2-[(Carbomethoxy)methyl]-N,4-dimethyl-N-[(1-methyl-1H-indol-2-yl)methyl]-3-oxo-2,3,4,5-tetrahydro-1H-1,4benzodiazepine-7-carboxamide
To a solution of (2R)-2-[(carbomethoxy)methyl]-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxylic acid (0.4 g, 1.37 mmole) in dry DMF (10 mL) at RT was added 1-methyl-2-(methylaminomethyl)indole (0.26 g, 1.50 mmole), HOBt (0.20 g, 1.50 mmole), i-Pr2NEt (0.19 g, 1.50 mmole) and EDC (0.29 g, 1.50 mmole). After 18 hr the reaction solution was diluted with H2O (25 mL) and extracted with EtOAc (2×50 mL). The organic fractions were combined, washed sequentially with H2O and brine, then were dried (Na2SO4). Concentration under vacuum followed by chromatography on silica gel (95:5 CHCl3/MeOH) provided the title compound (0.56 g, 92%) as an off-white solid: MS (ES) m/e 449 (M+H)+.

reactant | (2R)-2-[(carbomethoxy)methyl]-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-7-carboxylic acid | 1.37 mmole, 0.4 g | C(=O)(OC)C[C@H]1NC2=C(CN(C1=O)C)C=C(C=C2)C(=O)O | C14H16N2O5
reactant | 1-methyl-2-(methylaminomethyl)indole | 1.50 mmole, 0.26 g | CN1C(=CC2=CC=CC=C12)CNC | C11H14N2
reactant | HOBt | 1.50 mmole, 0.20 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | i-Pr2NEt | 1.50 mmole, 0.19 g | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC | 1.50 mmole, 0.29 g
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | 25 mL | O | H2O
product | (2R)-2-[(Carbomethoxy)methyl]-N,4-dimethyl-N-[(1-methyl-1H-indol-2-yl)methyl]-3-oxo-2,3,4,5-tetrahydro-1H-1,4benzodiazepine-7-carboxamide | 0.56 g, 92% | C(=O)(OC)C[C@H]1NC2=C(CN(C1=O)C)C=C(C=C2)C(=O)N(CC=2N(C1=CC=CC=C1C2)C)C | C25H28N4O4
